US06462036B1
A mixture of methyl 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzoate (100 mg) and N-(2-aminoethyl)morpholine (0.5 ml) was stirred and heated at 150° C. for 5 hours. The mixture was cooled and washed with petroleum ether, b.p. 40-60° C. (20 ml). The mixture was dissolved in a mixture of dichloromethane/IMS/triethyl-amine (25:2:1) and purified by flash column chromatography on silica using the same solvent mixture as the mobile phase. Appropriate fractions were collected, combined and evaporated to give a gum which was dissolved in dichloromethane, washed with water, then dried, filtered and evaporated to give a solid which was triturated with ether and filtered to give N-(2-morpholinoethyl)-4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzamide monohydrate, m.p. 210-214° C.

reactant | methyl 4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzoate | 100 mg | N1N=C(C2=C1C1=CC=CC=C1C2)C2=CC=C(C(=O)OC)C=C2 | C18H14N2O2
reactant | N-(2-aminoethyl)morpholine | 0.5 ml | NCCN1CCOCC1 | C6H14N2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(2-morpholinoethyl)-4-(1,4-dihydroindeno[1,2-c]pyrazol-3-yl)benzamide monohydrate | O.O1CCN(CC1)CCNC(C1=CC=C(C=C1)C=1C2=C(NN1)C1=CC=CC=C1C2)=O | InChI=1S/C23H24N4O2.H2O/c28-23(24-9-10-27-11-13-29-14-12-27)17-7-5-16(6-8-17)21-20-15-18-3-1-2-4-19(18)22(20)26-25-21;/h1-8H,9-15H2,(H,24,28)(H,25,26);1H2
